US07420001B2
N-[(4′-{[(5-amino-1-benzofuran-2-yl)carbonyl]amino}-1,1′-biphenyl-4-yl)sulfonyl]-L-valine-Wang resin (0.3 g), from Example 7, was suspended in methylene chloride (6 mL). To the suspension was added with N,N-diisopropylethylamine (6.0 equiv.) and methanesulfonyl chloride (3.0 equiv.). The reaction was allowed to proceed at room temperature for 1 h and the reagent was removed by filtration. The resin was washed with methylene chloride (2×), methanol and methylene chloride (2×) before being treated with a 95% solution of TFA in methylene chloride (5 mL) and agitated at room temperature for 2 h. The solution was collected by filtration and the solvent was removed via vacuum. The crude product was then purified by flash chromatography to give N-({4′-[({5-[(methylsulfonyl)amino]-1-benzofuran-2-yl}carbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)-L-valine LCMS MH+ (m/z) 586. 1H NMR (300 MHz, DMSO-d6): δ 10.53 ppm (s, 1H), 9.59 ppm (s, 1H), 7.78-7.16 ppm (m, 12H), 3.30 ppm (m, 1H), 1.87 ppm (m, 1H), 0.63 ppm (m, 6H).

reactant | N-[(4′-{[(5-amino-1-benzofuran-2-yl)carbonyl]amino}-1,1′-biphenyl-4-yl)sulfonyl]-L-valine | NC=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@@H](C(C)C)C(=O)O)C1 | C26H25N3O6S
reactant | N,N-diisopropylethylamine | 6.0 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 3.0 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | N-({4′-[({5-[(methylsulfonyl)amino]-1-benzofuran-2-yl}carbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)-L-valine | CS(=O)(=O)NC=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@@H](C(C)C)C(=O)O)C1 | C27H27N3O8S2
